US08404679B2
4-Trifluoromethyl-pyridine-2-carboxylic acid {(3RS,4SR)-4-(3,4-dichloro-phenyl)-1-[1-(1-methyl-cyclopropanecarbonyl)-piperidine-4-carbonyl]-pyrrolidin-3-yl}-methyl-amide
In analogy to the procedure described for the synthesis of example 97, the title compound 4-trifluoromethyl-pyridine-2-carboxylic acid {(3RS,4SR)-4-(3,4-dichloro-phenyl)-1-[1-(1-methyl-cyclopropanecarbonyl)-piperidine-4-carbonyl]-pyrrolidin-3-yl}-methyl-amide was prepared from {4-[(3SR,4RS)-3-(3,4-dichloro-phenyl)-4-methylamino-pyrrolidine-1-carbonyl]-piperidin-1-yl}-(1-methyl-cyclopropyl)-methanone using 4-(trifluoromethyl)pyridine-2-carboxylic acid instead of 4-chloro-3-(trifluoromethyl)benzoic acid and was obtained as a light brown foam. MS m/e: 611.2 [M]+.

reactant | {4-[(3SR,4RS)-3-(3,4-dichloro-phenyl)-4-methylamino-pyrrolidine-1-carbonyl]-piperidin-1-yl}-(1-methyl-cyclopropyl)-methanone | ClC=1C=C(C=CC1Cl)C1CN(CC1NC)C(=O)C1CCN(CC1)C(=O)C1(CC1)C | C22H29Cl2N3O2
reactant | 4-(trifluoromethyl)pyridine-2-carboxylic acid | FC(C1=CC(=NC=C1)C(=O)O)(F)F | C7H4F3NO2
product | 4-trifluoromethyl-pyridine-2-carboxylic acid {(3RS,4SR)-4-(3,4-dichloro-phenyl)-1-[1-(1-methyl-cyclopropanecarbonyl)-piperidine-4-carbonyl]-pyrrolidin-3-yl}-methyl-amide | ClC=1C=C(C=CC1Cl)C1C(CN(C1)C(=O)C1CCN(CC1)C(=O)C1(CC1)C)N(C(=O)C1=NC=CC(=C1)C(F)(F)F)C | C29H31Cl2F3N4O3
